US08383827B2
Step 4: Synthesis of 5-(6-chloro-1-methyl-1H-pyrrolo[3,2-c]pyridin-2-yl)-nicotinic acid methyl ester
To 5-(4-amino-6-chloro-pyridin-3-ylethynyl)-nicotinic acid methyl ester (0.950 mg, 3.30 μmol) in NMP (15 mL) was added KOtBu (1.112 mg, 9.91 μmol) and the reaction was left to stir overnight at room temperature. The reaction was cooled to 0° C. and methyl iodide (0.619 μl, 9.91 μmol) was added. The reaction mixture was stirred for 30 min. The reaction was quenched with water and extracted with ethyl acetate twice. The combined organic layer was washed with water thrice, dried over sodium sulfate and concentrated in vacuo to afford desired product 5-(6-chloro-1-methyl-1H-pyrrolo[3,2-c]pyridin-2-yl)-nicotinic acid methyl ester as a brown color oil which was taken onto next step without further purification. ESI-MS: m/z 302.0 (M+H)+

reactant | 5-(4-amino-6-chloro-pyridin-3-ylethynyl)-nicotinic acid methyl ester | 3.30 μmol, 0.950 mg | COC(C1=CN=CC(=C1)C#CC=1C=NC(=CC1N)Cl)=O | C14H10ClN3O2
reactant | KOtBu | 9.91 μmol, 1.112 mg | CC(C)(C)[O-].[K+]
reactant | methyl iodide | 9.91 μmol, 0.619 μl | CI | CH3I
solvent | NMP | 15 mL | CN1CCCC1=O | C5H9NO
product | 5-(6-chloro-1-methyl-1H-pyrrolo[3,2-c]pyridin-2-yl)-nicotinic acid methyl ester | COC(C1=CN=CC(=C1)C1=CC=2C=NC(=CC2N1C)Cl)=O | C15H12ClN3O2
